US06153322
LAH (9.68 mmol) is added to a diethyl-2,2-ditetradecylmalonate (2.42 mmol) solution in THF at rt and the reaction mixture is heated under reflux for 2 h. The reaction mixture is quenched with 1 M HCl solution and stirred for 30 min. The aqueous layer is extracted with diethyl ether two times. The combined organic layers are washed with a dilute HCl solution and brine, and then dried over anhydrous magnesium sulfate. Solvents are evaporated under vacuum. The reaction afforded 2,2-ditetradecyl-1,3-propanediol in 91% yield 1H NMR (300 MHz, CDCl3): δ 3.57 (s, 4H, CH2O), 1.38-1.15 (m), 0.88 (t, 6H, J=8.0 Hz).

reactant | LAH | 9.68 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | diethyl-2,2-ditetradecylmalonate | 2.42 mmol | C(C)OC(C(C(=O)OCC)(CCCCCCCCCCCCCC)CCCCCCCCCCCCCC)=O | C35H68O4
solvent | THF | C1CCOC1 | C4H8O
product | 2,2-ditetradecyl-1,3-propanediol | 91% yield | C(CCCCCCCCCCCCC)C(CO)(CO)CCCCCCCCCCCCCC | C31H64O2
